US06281227B1
D. 2-Benzyloxycarbonylamino-4-(2-pyrrolo[3,2-c]pyridin-1-yl-acetylamino)-butyric acid methyl ester
Pyrrolo[3,2-c]pyridin-1-yl-acetic acid (0.50 g, 1.89 mmol), 2-(S)-benzyloxycarbonylamino-4-amino-butyric acid methyl ester trifluoroacetate (0.93 g, 2.45 mmol), 4-methylmorpholine (0.75 g, 7.41 mmol), and 1-hydroxybenzotriazole hydrate (0.36 g, 2.65 mmol) are dissolved in DMF (11 mL) and the resulting mixture is cooled to 0° C. 1-(3-Dimethylaminopropyl)-3-ethylcarbodiiimide hydrochloride (0.80 g, 4.17 mmol) is added to the solution. The ice bath is removed and the reaction mixture is stirred at room temperature. After 18 hours, the solution is diluted with a saturated solution of NH4Cl and extracted twice with EtOAc. The combined organic layers are washed with H2O, saturated NaHCO3 and saturated NaCl. The organic phase is dried over MgSO4, filtered and concentrated in vacuo. The crude product is purified by column chromatography in a gradient of 3% MeOH/CH2Cl2 to 10% MeOH/CH2Cl2 to afford the title compound (0.33 g, 0.78 mmol) as a solid.

reactant | Pyrrolo[3,2-c]pyridin-1-yl-acetic acid | 1.89 mmol, 0.50 g | N1(C=CC=2C=NC=CC21)CC(=O)O | C9H8N2O2
reactant | 2-(S)-benzyloxycarbonylamino-4-amino-butyric acid methyl ester trifluoroacetate | 2.45 mmol, 0.93 g | FC(C(=O)O)(F)F.COC([C@H](CCN)NC(=O)OCC1=CC=CC=C1)=O
reactant | 4-methylmorpholine | 7.41 mmol, 0.75 g | CN1CCOCC1 | C5H11NO
reactant | 1-hydroxybenzotriazole hydrate | 2.65 mmol, 0.36 g | O.ON1N=NC2=C1C=CC=C2
solvent | DMF | 11 mL | CN(C)C=O | C3H7NO
product | 2-Benzyloxycarbonylamino-4-(2-pyrrolo[3,2-c]pyridin-1-yl-acetylamino)-butyric acid methyl ester | 0.78 mmol, 0.33 g | COC(C(CCNC(CN1C=CC=2C=NC=CC21)=O)NC(=O)OCC2=CC=CC=C2)=O | C22H24N4O5
